US09023846B2
A solution of 6-chloro-2-methoxy-3-nitro-pyridin-4-ylamine (8.90 g, 43.7 mmol, prepared as described in the previous step) in 1,4-dioxane (200 mL) and water (100 mL) was treated with Cs2CO3 (35.6 g, 109 mmol) and 2-chlorophenylboronic acid (10.2 g, 65.5 mmol) under Ar. To the resulting mixture was added Cl2Pd(dppf).DCM (3.50 g, 4.30 mmol) and the mixture was then heated to 90° C. for 15 h. The cooled mixture was diluted with EtOAc (500 mL) and washed with water (500 mL). The aqueous layer was extracted twice with EtOAc (3×300 mL). The combined extracts were dried over MgSO4 and concentrated in vacuo. The residue was purified on silica (0:100-50:50 EtOAc/hexanes) to yield a yellowish white solid. The solid was dissolved in EtOAc (200 mL) with heating and hexane (150 mL) was added. The resulting solution was concentrated until the solution became turbid and heated to yield a clear solution which was left overnight at room temperature. The crystals formed were collected by suction filtration. This recrystallization procedure was repeated twice to yield 6-(2-chloro-phenyl)-2-methoxy-3-nitro-pyridin-4-ylamine. 1H-NMR (400 MHz, CDCl3) δ: 7.59-7.66 (m, 1H), 7.43-7.51 (m, 1H), 7.31-7.39 (m, 2H), 6.69 (s, 1H), 6.11 (br. s., 2H), 4.07 (s, 3H). Mass Spectrum (LCMS, ESI pos.) Calculated for C12H10N3O3Cl: 280.0 (M+H), Measured: 280.1.

reactant | 6-chloro-2-methoxy-3-nitro-pyridin-4-ylamine | ClC1=CC(=C(C(=N1)OC)[N+](=O)[O-])N | C6H6ClN3O3
reactant | Cs2CO3 | 109 mmol, 35.6 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-chlorophenylboronic acid | 65.5 mmol, 10.2 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | DCM | 4.30 mmol, 3.50 g | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 200 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | hexane | 150 mL | CCCCCC | C6H14
solvent | water | 100 mL | O | H2O
product | 6-(2-chloro-phenyl)-2-methoxy-3-nitro-pyridin-4-ylamine | ClC1=C(C=CC=C1)C1=CC(=C(C(=N1)OC)[N+](=O)[O-])N | C12H10ClN3O3
